US06716843B2
(S)-N-[3-Amino-4-oxo-4-(1,3-thiazolidin-3-yl)butyl]-methane-sulphonamide Hydrochloride
Starting from (S)-4-[(benzyloxycarbonyl)-amino]-2-[(tert-butyloxycarbonyl)-amino]-butanoic acid, methanesulphonyl chloride and 1,3-thiazolidine, the expected product is obtained according to the procedure described in Example 3.

reactant | (S)-4-[(benzyloxycarbonyl)-amino]-2-[(tert-butyloxycarbonyl)-amino]-butanoic acid | C(C1=CC=CC=C1)OC(=O)NCC[C@@H](C(=O)O)NC(=O)OC(C)(C)C | C17H24N2O6
reactant | methanesulphonyl chloride | CS(=O)(=O)Cl | CH3ClO2S
reactant | 1,3-thiazolidine | S1CNCC1 | C3H7NS
product | (S)-N-[3-Amino-4-oxo-4-(1,3-thiazolidin-3-yl)butyl]-methane-sulphonamide Hydrochloride | Cl.N[C@@H](CCNS(=O)(=O)C)C(N1CSCC1)=O | InChI=1S/C8H17N3O3S2.ClH/c1-16(13,14)10-3-2-7(9)8(12)11-4-5-15-6-11;/h7,10H,2-6,9H2,1H3;1H/t7-;/m0./s1
